US07368578B2
To a solution of methyl (5-{4-[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}-2-methanesulfonyloxybenzoate (5.70 g) in tetrahydrofuran (100 mL)-ethanol (10 mL) was gradually added sodium borohydride (0.23 g) at 0° C. After stirring the reaction mixture at room temperature for 2 hrs, dilute hydrochloric acid was added to acidify the solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography, and eluted with ethyl acetate-hexane (5:1, v/v) to give methyl 5-{4-[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}-2-methanesulfonyloxybenzoate as colorless crystals (4.02 g, yield 70%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 126-127° C.

reactant | 5-{4-[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}-2-methanesulfonyloxybenzoate | 5.70 g | C(=O)C1=CC(=C(OCC=2N=C(OC2C)C=2C=CC(=C(C(=O)[O-])C2)OS(=O)(=O)C)C=C1)OC
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | sodium borohydride | 0.23 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | methyl 5-{4-[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}-2-methanesulfonyloxybenzoate | 4.02 g, yield 70% | OCC1=CC(=C(OCC=2N=C(OC2C)C=2C=CC(=C(C(=O)OC)C2)OS(=O)(=O)C)C=C1)OC | C22H23NO9S
